US06610733B2
Ethyl 10-[(3R,4R)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoate (2.08 g, 3.297 mmol) and sodium hydroxide (527 mg, 13.19 mmol) were added to an ethanol/water mixture (40/10 ml), followed by heating under reflux for 4 hours. The reaction mixture was acidified with 2N hydrochloric acid and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane/dichloromethane=1/4/1) to give 10-[(3R,4R)-7-hydroxy-3-(4-hydroxyphenyl)-3-methythiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoic acid (1.8 g, Yield 91%) as a foam.

reactant | Ethyl 10-[(3R,4R)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoate | 3.297 mmol, 2.08 g | OC1=CC=C2[C@@H]([C@](CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C33H43F5O4S
reactant | sodium hydroxide | 13.19 mmol, 527 mg | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol water | 10 ml | C(C)O.O
product | 10-[(3R,4R)-7-hydroxy-3-(4-hydroxyphenyl)-3-methythiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoic acid | 1.8 g, Yield 91% | OC1=CC=C2[C@@H]([C@](CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)O)CCCC(C(F)(F)F)(F)F | C31H39F5O4S
